US04330555
N-(7-Methyl-3-oxo-1-propyl-4-indanyl)oxamic acid
A solution of 1.6 g N-(7-methyl-3-oxo-1-propyl-4-indanyl)oxamic acid ethyl ester in 100 ml methanol is heated at reflux with 5.28 ml of 1 M aqueous NaOH for 30 minutes. The solution is concentrated, diluted with water, filtered through a filtering aid such as Hyflo (Registered Trade Mark), and made acid with 2 N HCL. The title compound is filtered off and dried. M.Pt. 157°-158°.

reactant | N-(7-methyl-3-oxo-1-propyl-4-indanyl)oxamic acid ethyl ester | 1.6 g | C(C)OC(C(=O)NC1=C2C(CC(C2=C(C=C1)C)CCC)=O)=O | C17H21NO4
reactant | NaOH | 1 M, 5.28 ml | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | N-(7-Methyl-3-oxo-1-propyl-4-indanyl)oxamic acid | CC=1C=CC(=C2C(CC(C12)CCC)=O)NC(C(=O)O)=O | C15H17NO4
